US05688798
0.17 g (0.00059 mol) of 5-(4-phenyl-piperazin-1-ylmethyl)-pyrimidine-2,4-diamine was dissolved in 120 ml of hot methanol. The solution was treated at room temperature with 0.32 ml (0.00118 mol) of 3.7N ethanolic hydrochloric acid. The solution was completely freed from the solvents and the residue was recrystallized from methanol/diethyl ether. 0.21 g (71%) of 5-(4-phenyl-piperazin-1-ylmethyl)-pyrimidine-2,4-diamine dihydrochloride was obtained as white crystals; m.p. 275°-277°.

reactant | 5-(4-phenyl-piperazin-1-ylmethyl)-pyrimidine-2,4-diamine | 0.00059 mol, 0.17 g | C1(=CC=CC=C1)N1CCN(CC1)CC=1C(=NC(=NC1)N)N | C15H20N6
reactant | hydrochloric acid | 0.00118 mol, 3.7N, 0.32 ml | Cl | ClH
solvent | methanol | 120 ml | CO | CH4O
product | 5-(4-phenyl-piperazin-1-ylmethyl)-pyrimidine-2,4-diamine dihydrochloride | 0.21 g, 71% | Cl.Cl.C1(=CC=CC=C1)N1CCN(CC1)CC=1C(=NC(=NC1)N)N | InChI=1S/C15H20N6.2ClH/c16-14-12(10-18-15(17)19-14)11-20-6-8-21(9-7-20)13-4-2-1-3-5-13;;/h1-5,10H,6-9,11H2,(H4,16,17,18,19);2*1H
